US07199147B2
Acetic anhydride (1.46 ml, 15.52 mmol), tetrabutylammonium bromide (83 mg, 0.259 mmol), potassium acetate (1.02 g, 10.35 mmol) and isoamyl nitrite (0.904 ml, 6.73 mmol) were added to a solution of N-(4-methoxy-2,3-dimethylphenyl)acetamide (1.0 g, 5.175 mmol) in ethyl acetate (10 ml) at room temperature, and the resulting mixture was refluxed. After 6 hours, the ethyl acetate was distilled off with heating, and a 6M-aqueous sodium hydroxide solution (10.35 ml, 62.1 mmol) was added dropwise to the residue at 60° C. After 1 hour, the reaction solution was adjusted to pH 8 to 9 with a 3M-aqueous hydrochloric acid solution and extracted with chloroform (50 ml×2), and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 5-methoxy-4-methyl-1H-indazole (456 mg, 54%).

reactant | Acetic anhydride | 15.52 mmol, 1.46 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 10.35 mmol, 1.02 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 6.73 mmol, 0.904 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | N-(4-methoxy-2,3-dimethylphenyl)acetamide | 5.175 mmol, 1.0 g | COC1=C(C(=C(C=C1)NC(C)=O)C)C | C11H15NO2
reactant | sodium hydroxide | 62.1 mmol, 10.35 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrabutylammonium bromide | 0.259 mmol, 83 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-4-methyl-1H-indazole | 456 mg, 54% | COC=1C(=C2C=NNC2=CC1)C | C9H10N2O
